Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I need to get my drinking under control"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ year old male with PPHx of alcohol
abuse and anxiety who presents with escalating anxiety and
depression after breaking up with girlfriend 2 weeks ago. 

He reports thoughts of suicide without a specific plan, but says
he feels 'trapped', 'no way out', and wants to 'do something 
that
would end the pain, to have it be over'. His alcohol intake has
escalated up to 12 or more drinks a night.  He has difficulty
sleeping - both falling asleep and staying asleep - and has used
both diphenhydramine ___ caps) and alcohol to help with sleep.
Appetite is diminished. Energy, motivation and concentration 
have
all been low.  He experiences a great deal
of anxiety and has had panic episodes in the past, reporting
several panic attacks in the last week. He also describes
obsessive worries and rumination; also compulsive masturbation
which he says is in response to anxiety.  He has had 
longstanding
social anxiety and 'a hard time dealing with stress'. He has had
'excited' periods in the past with increased energy and 
activity,
but without clear manic symptoms. No psychotic symptoms. 

Patient reports that his last drink was ___ evening (about 3
drinks) after experiencing withdrawal symptoms throughout the 
day
after trying to stop drinking since ___. Patient noted having
some AH of whisperings ___ night. Patient states that he 
works
in a lab with mice and is having trouble performing job 
functions
due to tremors and "jumpiness" as a result of alcohol use. 
 
ROS: Currently the patient says he is experiencing withdrawal
symptoms including shakiness, feels 'hot/cold', mild headache,
muscle aches, and poor concentration. Other ROS neg.
   
ED Course/medication admins: Patient was evaluated in the ED for
alcohol use, worsening depression/anxiety, and suicidal 
ideation.
He was placed on CIWA to monitor and received 2 doses of 
diazepam
10mg PO at 12:47 and 19:16. 

 
Past Medical History:
Past psychiatric history: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
Hospitalizations:  none
Current treaters and treatment:  
Therapist ___ at ___
___ - message left
Medication and ECT trials:  Past trials of SSRIs and 
venlafaxine-
no psych meds for the past ___ yrs, states sexual side effects
of SSRI were reason for discontinuing, stated he had better luck
with Buspar
Self-injury:  none
Harm to others:  fights, pushed sister when intoxicated
Access to weapons:  none
   
Past medical history: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
multiple congenital defects including congenital vertebral
fusion, aortic insufficiency, solitary kidney, enterocele 
removal
exercise induced asthma

Substance use history: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
Alcohol use since high school, daily
over the past year up to ___ drinks/night. No past hx of
withdrawal or treatment.
Past marijuana use, not recently.
Has tried cocaine, ___, mushrooms in the past. 

 
Social History:
___
Family History:
Alcohol use/abuse in multiple family members including both
parents, siblings.  
Sister with bipolar disorder.
 
Physical Exam:
ADMISSION EXAM:
VS: T:98.7 , BP:133/91 , HR:108 , O2 sat: 98% on RA

 General: Well-developed well-nourished male, NAD, appears 
stated
age
 HEENT: Normocephalic, atraumatic. pupils dilated but reactive 
to
light and symmetric, EOMI with some end-gaze nystagmus.
Oropharynx clear. No glossitis noted. 
 Neck: Supple.
 Back: congenital deformities of sternum and back noted.
 Lungs: CTA ___. No crackles, wheezes, or rhonchi.
 CV: tachycardic, regular rhythm, no murmurs/rubs/gallops. 
 Abdomen: decreased bowel sounds, soft, nontender, nondistended. 

 Extremities: No clubbing, cyanosis, or edema.
 Skin: No rashes, abrasions, scars, or lesions. 

Neurological:
 Cranial Nerves:
 -Pupils dilated, symmetrical and responsiveness to light
 -Visual fields: full to confrontation
 -EOM: full, end gaze horizontal nystagmus
 -Facial symmetry on eye closure and smile: symmetric
 -Phonation: normal
 -Shoulder shrug: intact
 -Tongue: midline

Motor: Normal bulk and tone bilaterally. Tremor in hands,
Strength: full power ___ throughout. 
Coordination: dysmetria on FTN and trouble writing name
___ to light touch throughout. 
Gait: Steady. Normal stance and posture. slowed with some 
ataxia.
 Romberg: Negative.

Cognition: 
 Wakefulness/alertness: awake and alert
 Attention: intact to interview
 Orientation: oriented to person, time, place, situation
 Memory: intact to past history, impaired on 3 item recall (___)
 Concentration: able to do MOYB
 Fund of knowledge: consistent with education, able to state 
that
___ was leader of ___ movement
 Calculations: 7 quarters in 1.75
 Abstraction: "grass is always greener" means "things will work
out better in the future"
 Speech: increased rate, normal volume, and tone
 Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
 Appearance: Appears stated age, wearing hospital gown
 Behavior: Anxious, cooperative, decreased eye contact, 
increased
psychomotor fidgeting
 Mood and Affect: "pretty anxious right now" / mood-congruent,
anxious, laughing appropriately
 Thought Process: linear, coherent, goal-oriented. No LOA. 
 Thought Content: denies SI/HI/AH/VH, no evidence of delusions 
or
paranoia. Reports AH ___ night with withdrawal.
 Judgment and Insight: poor/poor

=====================================================
DICHARGE EXAM:
 VITAL SIGNS: T 97.4, BP 116/80, HR 88, RR 16, O2 Sat 97%

NEURO:
 Station and Gait: Normal station and gait.
 Tone and Strength: Walks easily. Supple tone.
 Cranial Nerves: Some facial asymmetry (normal for the pt), EOMI
 Abnormal Movements: No dystonia, tremor, or tardive dyskinesia

 MSE:
 Appearance: Tall with dark hair, appears stated age,
well-groomed, wearing jeans and long sleeve shirt
 Behavior: cooperative with interview, somewhat improved eye
contact but also stares at the floor, neck slightly turned to 
one
side. Mood and Affect: "good" euthymic affect
 Thought process: Logical, linear, goal-directed. No LOA
 Thought Content: No SI (pt states: "Withdrawal symptoms made me
feel like I wanted to die", no plan or thoughts to harm self
otherwise) No HI, No A/V/O H
 Judgment and Insight: poor/poor

 COGNITION:
 Attention: Attentive to interview.
 Orientation: Oriented to day, date, situation
 Executive function: NT
 Memory: Intact to recent and past history
 Fund of knowledge: Appropriate for level of education.
 Calculations: NT
 Abstraction: NT
 Visuospatial: NT
 Speech: Normal rate, rhythm, prosody, and volume.
 Language: Fluent in ___ without neologisms or paraphasic
errors.

On the discharge day, Mr. ___ shared that he slept better, he 
didn't have any side effects from the meds. He would like to 
continue them. Mr. ___ reported about positive plans for future. 
He recognizes importance of positive day structure in order to 
maintain sobriety. Mr. ___ will see his outpatient psychiatrist on 
___. Team also learned that pt's parents are planning to 
come to ___ to spend weekend with pt.
 
Pertinent Results:
CBC, BMP, UA WNL
Negative urine tox screen
B12, folate, B1, TSH all WNL
HBV, HCV, HIV, RPR, GC/CT all WNL, HSV1/2 PND at discharge

ALT: 131 -> 152 -> 161 -> 148 -> 103
AST: 122 -> 141 -> 101 -> 77 -> ___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  He was placed on 15  minute checks 
status on admission and remained on that level of observation 
throughout while being unit restricted.

2. PSYCHIATRIC:
#) Generalized anxiety disorder: The patient described a 
long-standing history of severe anxiety, which seems to have 
started in grade school when the patient was picked on for 
having multiple congenital abnormalities. Since then, he has 
continued to experience anxiety in a number of day to day 
situations, including when dealing with lab mice at his job to 
trying to get over a break-up with his girlfriend. He had 
previously been trialed on effexor, buspar, and lexapro (most 
recently had been on lexapro 20 mg about ___ years ago), with 
good effect, but had stopped taking the medications because he 
didn't want to be taking them. Given his prior good response 
with lexapro as well as its minimal side effect profile, the 
patient was re-started on lexapro. He was initially started on 5 
mg, which was uptitrated to 10 mg upon discharge. Of note, the 
patient also reported chronic difficulties with sleep, which was 
thought to be secondary to both his anxiety as well as alcohol 
dependence. He was started on seroquel 50 mg at bedtime with an 
additional 25 mg available as needed. He was discharged home 
with a follow up appointment arranged with Dr. ___ 
on the same day.

#) Mood instability: The patient expressed concern that he had 
been displaying symptoms of hypomania in the past. He cited 
instances of getting excited about research projects and working 
away for hours to the point where his ex-girlfriend had 
expressed her concern. He also endorsed having occasional 
feelings of "grandiosity" where he is the "smartest person in 
the world." However, given the patient's concurrent alcohol 
abuse when he experienced these symptoms, it could not be 
determined whether or not the patient was experiencing 
hypomania. He was instructed to document these symptoms when 
sober and follow up with his outpatient psychiatrist. The 
patient was also told that the seroquel he was prescribed could 
also help with his mood instability.

3. SUBSTANCE USE DISORDERS:
#) Alcohol use disorder: The began drinking early in high school 
after multiple issues arose in his family, including conflict 
between his parents as well as his sister having a psychotic 
break due to bipolar disorder. This, in addition to being made 
fun of, took a toll on the patient and appears to have 
contributed significantly to him starting to drink. Throughout 
the years, his alcohol use had continued to increase, and most 
recently escalated to ___ drinks a day following a break-up 
with his girlfriend. He began to experience severe withdrawal 
symptoms and thus self-presented to the ED. In the ED, he was 
placed on the ___ protocol and required 20 mg valium. While on 
the floor he appeared to be asymptomatic and was scoring 0s on 
the CIWA, and so it was d/c. Multiple therapy sessions were held 
with the patient in which the problematic nature of his alcohol 
use was discussed as well as the grave consequences. The 
importance of remaining sober was also emphasized given the 
increased likelihood of relapsing. The patient initially hoped 
to return to work as soon as possible so did not agree to attend 
residential or partial programs. However, he agreed to try the 
___ intensive outpatient evening program. He was provided 
information about local recovery groups (AA, smart recovery, 
etc) as well as residential substance abuse programs.
Mr. ___ also plans to continue with individual therapy and 
psychopharm management.

4. MEDICAL
#) Acute: Elevated liver enzymes, likely secondary to EtOH. 
Trending down at discharge. Patient instructed to follow up with 
PCP to repeat labs.
ALT: 131 -> 152 -> 161 -> 148 -> 103
AST: 122 -> 141 -> 101 -> 77 -> 46

#) Chronic: congenital vertebral fusion, aortic insufficiency, 
solitary kidney, enterocele

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. He was social with other 
patients and friendly with staff.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
A family meeting was held with the patient and his mother, who 
flew in from ___. She discussed her concerns over the 
patient's escalating alcohol use. She acknowledged that while 
alcohol is a major part of social events in the family, the 
patient always drinks much more than other family members. The 
states that the patient has had issues with alcohol going back 
to high school and is in agreement with the patient attending a 
residential detox program.

#) INTERVENTIONS
- Medications: Lexapro 10 mg daily, Seroquel 50 mg qhs + 25 mg 
bid prn
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Psychiatry w/ Dr. ___

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself.  Risk factors include male 
gender, age, single status, chronic alcohol abuse, family 
history of alcohol abuse, chronic medical conditions, lack of 
outpatient treaters, and recent acutely stressful events. 
Protective factors include that the patient is help-seeking, has 
employment, no prior self-harm/suicide attempts, and no access 
to lethal weapons. During his hospitalization, the modifiable 
risk factors of alcohol abuse and lack of outpatient providers 
were addressed. The patient was set-up with outpatient treaters 
and was encouraged to remain sober.  Based on the totality of 
our assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. 

Our Prognosis of this patient is fair. If he continues regular 
therapy appointments, psychotropic medications, and finds 
productive ways to manage his anxiety, he has a good chance of 
getting his alcohol use under control. However, given the 
longevity of the patient's drinking history and lack of 
supportive family nearby, relapse is a possibility.

 
Medications on Admission:
None
 
Discharge Medications:
1.  Escitalopram Oxalate 10 mg PO DAILY 
RX *escitalopram oxalate 10 mg 1 tablet(s) by mouth daily Disp 
#*5 Tablet Refills:*0 
2.  QUEtiapine Fumarate 50 mg PO QHS 
RX *quetiapine 50 mg 1 tablet(s) by mouth at bedtime Disp #*5 
Tablet Refills:*0 
3.  QUEtiapine Fumarate 25 mg PO BID PRN sleep/anxiety 
RX *quetiapine 25 mg 1 tablet(s) by mouth bid prn Disp #*10 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Alcohol use disorder
Generalized anxiety disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized at ___ for worsening anxiety and alcohol 
use.  

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
-We strongly recommend engaging in AA/NA/SMART recovery meetings 
for ongoing help with sobriety. Here is a website with links to 
meetings near your area: ___

It was a pleasure to have worked with you, and we wish you the 
best of health.

 
Followup Instructions:
___